US04476308
Preparation of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide
0.594 g of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide is boiled at reflux for 4 hours with 0.222 g of N-acetylimidazole in 10 ml of toluene. The mixture is chromatographed over 21 g of aluminum oxide (activity grade III, neutral). The (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide which is eluted with methylene chloride has a melting point of 120°-121° after crystallization from diethyl ether.

reactant | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | 0.594 g | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
reactant | N-acetylimidazole | 0.222 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)OC(C)=O)=O)=O | C17H29N3O4
